US06100405
(7-(4-benzothiazol-2-vlphenyl)-9.9-diethylfluoren-2-yl)diphenylamine
A mixture of diphenylamino-9,9-diethyl-bromofluorene (7.02g, 0.015 mol), benzothiazole boronic acid (7.5 g 0.029 mol.), ethanol (50 ml), in NMP (50 ml) was degassed by bubbling nitrogen through the solution for 20 min. Sodium carbonate (13.0 g, 0.12 mol.) and 5% palladium on charcoal (1.5 g ) were then added, the mixture heated at 85-90° C. for 42 hrs. The resulting solids (18.0 g) that separated upon cooling were collected, washed with ethanol and dried. The solids were then transferred to a chromatograph column containing 300 g of alumina. Elution with 1:1 toluene-heptane gave the product, 4.98 g. (55.5% yield), m.p. 243.6-246.1° C. Recrystallization from toluene did not raise the melting point. Mass Spec: m/z 598, (M+). Analysis calculated for C42H34N2S: C, 84.25; H, 5.72; N, 4.68; S, 5.34. Found: C, 83.87; H, 6.02; N, 5.04; S, 5.29.

reactant | diphenylamino-9,9-diethyl-bromofluorene | 0.015 mol, 7.02g | C1(=CC=CC=C1)N(C1=CC=CC=C1)C1=C(C=2C(C3=CC=CC=C3C2C=C1)(CC)CC)Br | C29H26BrN
reactant | benzothiazole boronic acid | 0.029 mol, 7.5 g | S1C(=NC2=C1C=CC=C2)B(O)O | C7H6BNO2S
reactant | Sodium carbonate | 0.12 mol, 13.0 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium on charcoal | 1.5 g | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | (7-(4-benzothiazol-2-vlphenyl)-9.9-diethylfluoren-2-yl)diphenylamine | S1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)C2=CC=C1C=3C=CC(=CC3C(C1=C2)(CC)CC)N(C2=CC=CC=C2)C2=CC=CC=C2 | C42H34N2S
